US04816457
A. 6-Acetyl tetrazolo[1,5-a] pyridine (A)
To a stirred solution of 8.4 gm. (51.6 mmoles) of 2-chloro-5-acetylpyridine and 8.4 gm. (129 mmoles) of sodium azide in 150 ml of ethanol and 150 ml of water was added 75 ml of 10% HCl over a period of 20 minutes. The reaction mixture was then heated to reflux for 18 hours, cooled in an ice bath and the resulting crystals filtered off to give a first crop of 6.0 gm. A second crop of 1.0 gm. was obtained for a total of 7.0 gm. of A, (84.% yield), m.p. 159°-160° C.

reactant | 2-chloro-5-acetylpyridine | 51.6 mmoles | ClC1=NC=C(C=C1)C(C)=O | C7H6ClNO
reactant | sodium azide | 129 mmoles | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 75 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 6-Acetyl tetrazolo[1,5-a] pyridine | C(C)(=O)C=1C=CC=2N(C1)N=NN2 | C7H6N4O
